US04472435
10 g (26.26 mmol) of 2-amino-2'-[o-fluoro-α-(hydroxyimino)benzyl]-4'-[1-(hydroxyimino)ethyl]-acetanilide are treated with 3N sodium hydroxide at 50° for 1 hour. The pH of the solution is adjusted to 8 and the precipitated material is filtered off, washed with water and dried at 50° in vacuo over phosphorus pentoxide. There is obtained 2-amino-2'-fluoro-5-[1-(hydroxyimino)ethyl]benzophenone oxime as a foam of melting point ca 165°.

reactant | 2-amino-2'-[o-fluoro-α-(hydroxyimino)benzyl]-4'-[1-(hydroxyimino)ethyl]-acetanilide | 26.26 mmol, 10 g | NCC(=O)NC1=C(C=C(C=C1)C(C)=NO)C(C1=C(C=CC=C1)F)=NO | C17H17FN4O3
reactant | sodium hydroxide | 3N | [OH-].[Na+]
product | 2-amino-2'-fluoro-5-[1-(hydroxyimino)ethyl]benzophenone oxime | NC1=C(C(C2=C(C=CC=C2)F)=NO)C=C(C=C1)C(C)=NO | C15H14FN3O2
